US07683060B2
6-(1-{6-[3-(1H-imidazol-1-yl)phenyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl}cyclopropyl)quinoline
To a solution of 6-{1-[6-(3-bromophenyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl]cyclopropyl}quinoline (20 mg, 0.04 mmol) in 1,4-dioxane (1 mL) was added 1H-imidazole (4.61 mg, 0.0677 mmol), sodium iodide (14 mg, 0.090 mmol), (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine (1 mg, 0.009 mmol), copper(I) iodide (0.8 mg, 0.004 mmol), and cesium carbonate (31 mg, 0.095 mmol), then the mixture was heated at 120° C. overnight. The reaction mixture was cooled to RT and filtered. The filtrate was diluted with MeOH and purified by RP-HPLC (pH=10) to afford the desired compound 8 mg (40%) LCMS: (M+H)+=431.1.

reactant | 6-{1-[6-(3-bromophenyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl]cyclopropyl}quinoline | 0.04 mmol, 20 mg | BrC=1C=C(C=CC1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C22H15BrN6
reactant | 1H-imidazole | 0.0677 mmol, 4.61 mg | N1C=NC=C1 | C3H4N2
reactant | sodium iodide | 0.090 mmol, 14 mg | [I-].[Na+]
reactant | (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine | 0.009 mmol, 1 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 0.095 mmol, 31 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.004 mmol, 0.8 mg | [Cu]I
product | 6-(1-{6-[3-(1H-imidazol-1-yl)phenyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl}cyclopropyl)quinoline | 8 mg, 40% | N1(C=NC=C1)C=1C=C(C=CC1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C25H18N8
